* SPICE3 file created from LNA_V8_F.ext - technology: sky130A

X0 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X1 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X2 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X3 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X4 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X5 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X6 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X7 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X8 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X9 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X10 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X11 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X12 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X13 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X14 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X15 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X16 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X17 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X18 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X19 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X20 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X21 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X22 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X23 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X24 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X25 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X26 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X27 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X28 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X29 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X30 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X31 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X32 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X33 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X34 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X35 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X36 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X37 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X38 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X39 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X40 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X41 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X42 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X43 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X44 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X45 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X46 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X47 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X48 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X49 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X50 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X51 OP a_n5372_n10196# a_n5450_n10000# VSUBS sky130_fd_pr__nfet_01v8 W=100u L=8u
X52 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X53 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X54 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X55 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X56 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X57 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X58 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X59 ON a_n5372_n10196# a_n5450_n10000# VSUBS sky130_fd_pr__nfet_01v8 W=100u L=8u
X60 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X61 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X62 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X63 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X64 OP a_n5372_n10196# a_n5450_n10000# VSUBS sky130_fd_pr__nfet_01v8 W=100u L=8u
X65 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X66 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X67 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X68 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X69 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X70 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X71 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X72 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X73 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X74 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X75 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X76 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X77 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X78 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X79 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X80 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X81 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X82 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X83 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X84 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X85 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X86 a_n5450_n10000# a_n5372_n10196# OP VSUBS sky130_fd_pr__nfet_01v8 W=100u L=8u
X87 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X88 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X89 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X90 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X91 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X92 ON a_n5372_n10196# a_n5450_n10000# VSUBS sky130_fd_pr__nfet_01v8 W=100u L=8u
X93 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X94 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X95 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X96 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X97 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X98 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X99 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X100 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X101 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X102 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X103 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X104 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X105 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X106 a_n5450_n10000# a_n5372_n10196# ON VSUBS sky130_fd_pr__nfet_01v8 W=100u L=8u
X107 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X108 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X109 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X110 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X111 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X112 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X113 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X114 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X115 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X116 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X117 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X118 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X119 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X120 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X121 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X122 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X123 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X124 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X125 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X126 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X127 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X128 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X129 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X130 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X131 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X132 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X133 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X134 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X135 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X136 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X137 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X138 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X139 OP GP TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X140 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X141 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X142 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X143 a_n18685_n61330# a_n18607_n61526# TS w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X144 TS GN ON w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X145 TS GP OP w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X146 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
X147 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X148 TS a_n18607_n61526# a_n18685_n61330# w_n18946_n61766# sky130_fd_pr__pfet_01v8 W=20u L=2u
X149 ON GN TS w_n8184_n54494# sky130_fd_pr__pfet_01v8 W=100u L=2u
